US05070090
To a cooled (5° C.) mixture of 12.9 parts of ethyl 4-[4-hydroxy-5-[(2-hydroxyethyl) (phenylmethyl)amino]pentyl]benzoate (prepared following the procedure described in Example 4 (a), (b), (c)), 7.86 parts of triphenyl phosphine and 90 parts of trichloromethane were added dropwise 7 parts of diethyl azodicarboxylate. After stirring overnight at 20° C., the reaction mixture was diluted with 50 parts of water. The organic layer was dried, filtered and evaporated. The residue was dissolved in 261 parts of methylbenzene and this solution was well mixed with 200 ml of HCl 2N. The whole was basified with ammonium hydroxide and extracted with dichloromethane. The extract was dried, filtered and evaporated and the residue was converted into the monohydrochloride salt in 2-propanol. The product was filtered off and dried, yielding 4 parts (31.7%) of ethyl 4-[3-[4-(phenylmethyl)-2-morpholinyl]propoxy]benzoate hydrochloride (interm. 28).

reactant | ethyl 4-[4-hydroxy-5-[(2-hydroxyethyl) (phenylmethyl)amino]pentyl]benzoate | OC(CCCC1=CC=C(C(=O)OCC)C=C1)CN(CC1=CC=CC=C1)CCO | C23H31NO4
reactant | triphenyl phosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | trichloromethane | ClC(Cl)Cl | CHCl3
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | water | O | H2O
product | ethyl 4-[3-[4-(phenylmethyl)-2-morpholinyl]propoxy]benzoate hydrochloride | 31.7% | Cl.C1(=CC=CC=C1)CN1CC(OCC1)CCCOC1=CC=C(C(=O)OCC)C=C1 | InChI=1S/C23H29NO4.ClH/c1-2-26-23(25)20-10-12-21(13-11-20)27-15-6-9-22-18-24(14-16-28-22)17-19-7-4-3-5-8-19;/h3-5,7-8,10-13,22H,2,6,9,14-18H2,1H3;1H
